US07713994B2
6-Bromo-4-{[(5-methoxy-4-oxo-4H-pyran-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione
A mixture of 2-aminomethyl-5-methoxy-pyran-4-one (116 mg, 0.75 mmole), 4 mL of N,N-dimethylformamide and 4-methoxymethylene-6-bromo-4H-isoquinoline-1,3-dione (212 mg, 0.75 mmole) is stirred for one hour at ambient temperature. The reaction mixture is evaporated to dryness, dissolved in 7.5% methanol in chloroform passed through Florisil eluting with 7.5% methanol in chloroform. The eluate is evaporated, treated with acetonitrile, the resulting solid filtered and dried to give a light pink solid, 152 mg, (50%), mp 259-61° C. dec; MS (ES−): m/z 403 (M−H).

reactant | 2-aminomethyl-5-methoxy-pyran-4-one | 0.75 mmole, 116 mg | NCC=1OC=C(C(C1)=O)OC | C7H9NO3
reactant | 4-methoxymethylene-6-bromo-4H-isoquinoline-1,3-dione | 0.75 mmole, 212 mg | COC=C1C(NC(C2=CC=C(C=C12)Br)=O)=O | C11H8BrNO3
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-4-{[(5-methoxy-4-oxo-4H-pyran-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNCC=1OC=C(C(C1)=O)OC | C17H13BrN2O5
